US08039472B2
To a cooled 0° C. solution of (1-cyano-cyclopentyl)-carbamic acid tert-butyl ester (430 mg, 2.04 mmol) in dry THF (4.3 ml) under an atmosphere of argon is added dropwise 1.0 M LiAlH4 (6.13 ml, 6.13 mmol). The reaction mixture is allowed to warm to room temperature and stirred for 3.5 hours. The mixture is then re-cooled to 0° C. and cautiously quenched with water (0.4 ml): 15% NaOH (0.8 ml): water (1.2 ml) (1:2:3 eq). The resultant mixture is filtered through Celite® (filter material) to remove the inorganic solids and rinsed with MeOH. The filtrate is concentrated in vacuo, to yield a white solid, which is purified by chromatography on silica eluting with 30% MeOH in DCM to afford (1-Aminomethyl-cyclopentyl)-carbamic acid tert-butyl ester; [M+H]+ 215.

reactant | (1-cyano-cyclopentyl)-carbamic acid tert-butyl ester | 2.04 mmol, 430 mg | C(C)(C)(C)OC(NC1(CCCC1)C#N)=O | C11H18N2O2
reactant | LiAlH4 | 6.13 mmol, 1.0 M, 6.13 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1.2 ml, 3 eq | O | H2O
solvent | THF | 4.3 ml | C1CCOC1 | C4H8O
product | (1-Aminomethyl-cyclopentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCCC1)CN)=O | C11H22N2O2
